US04000143
A suspension of 2-(o-nitrostyryl)-1-methylpyridinium iodide (40.5 mg., 0.11 mole) prepared according to the method of L. Horwitz, J. Org. Chem., 21, 1039 (1956) in 200 ml. of ethanol is hydrogenated in a Parr hydrogenation apparatus employing 0.3 g. of platinum oxide catalyst while maintaining a reaction temperature of from about 50° to 75° C. When the hydrogen uptake ceases (about 3 hours), the reduction mixture is filtered, the filtrate evaporated and the resulting residue taken up in 500 ml. of water. The aqueous solution is basified with 40% sodium hydroxide and extracted with several 200 ml. portions of ether. Ethereal extracts are combined, washed with water, dried over magnesium sulfate, and the ether evaporated. Distillation of the resiude thus obtained provides 20.8 g. (87% yield) of 2-(o-aminophenethyl)-1-methylpiperidine base having a boiling point of 121°-125° C. at 0.04 mm.

reactant | 2-(o-nitrostyryl)-1-methylpyridinium iodide | 0.11 mole, 40.5 mg | [I-].[N+](=O)([O-])C1=C(C=CC2=[N+](C=CC=C2)C)C=CC=C1
catalyst | platinum oxide | [Pt]=O
solvent | ethanol | C(C)O | C2H6O
product | 2-(o-aminophenethyl)-1-methylpiperidine | 87% yield | NC1=C(CCC2N(CCCC2)C)C=CC=C1 | C14H22N2
